US04767760
To a stirred and refluxed mixture of 1.5 parts of 2-chloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-(4-fluorophenyl)-α-methylbenzeneacetonitrile and 75 parts of acetic acid were added portionwise 3 parts of zinc during a period of 30 minutes. Upon complete addition, stirring was continued for 3 hours at reflux. The reaction mixture was filtered while hot and the filtrate was concentrated in vacuo to 10 parts of its volume. Water was added to the concentrate. The precipitated product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was crystallized from acetonitrile. The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 0.8 parts (53.6%) of 2-chloro-α-(4-fluorophenyl)-α-methyl-4-(3,4,5,6-tetrahydro-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetonitrile; mp. 122.5° C. (compound 2).

reactant | 2-chloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-(4-fluorophenyl)-α-methylbenzeneacetonitrile | ClC1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C(C#N)(C)C1=CC=C(C=C1)F | C18H12ClFN4O2
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-chloro-α-(4-fluorophenyl)-α-methyl-4-(3,4,5,6-tetrahydro-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetonitrile | 53.6% | ClC1=C(C=CC(=C1)N1NCC(NC1=O)=O)C(C#N)(C)C1=CC=C(C=C1)F | C18H14ClFN4O2
